US09403798B2
4-(4-Fluorophenyl)-(4-oxo-5-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-4,5-dihydro-1,3,5-triazin-2-yl)-1,2,3,6-tetrahydropyridin-3-yl acetate
To 4-[4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one (20.0 mg, 0.0442 mmol) synthesized in Synthesis Example 190, at room temperature, acetic anhydride (2.0 mL) and sodium acetate (9.00 mg, 0.110 mmol) were added at room temperature and the resultant mixture was stirred at 100° C. for 40 minutes. After the completion of the reaction, the reaction solution was concentrated and to the resultant residue, water was added, followed by filtering a deposited colorless solid and by drying the solid to obtain the title compound (20.6 mg, yield: 94%).

reactant | 4-[4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 0.0442 mmol, 20.0 mg | FC1=CC=C(C=C1)C1=CCN(CC1O)C1=NC(N(C=N1)CC=1SC(=CC1)C(F)(F)F)=O | C20H16F4N4O2S
reactant | acetic anhydride | 2.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.110 mmol, 9.00 mg | C(C)(=O)[O-].[Na+]
product | 4-(4-Fluorophenyl)-(4-oxo-5-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-4,5-dihydro-1,3,5-triazin-2-yl)-1,2,3,6-tetrahydropyridin-3-yl acetate | 20.6 mg, yield: 94% | C(C)(=O)OC1CN(CC=C1C1=CC=C(C=C1)F)C=1N=CN(C(N1)=O)CC=1SC(=CC1)C(F)(F)F | C22H18F4N4O3S
